US06441008B1
3-Chloro-5-hydroxy-N,N-diisopropyl-benzamide
To a stirred solution of 3-chloro-N,N-diisopropyl-5-methoxy-benzamide (2.96 g) in anhydrous dichloromethane (30 ml) at −78° C. was added boron tribromide solution in dichloromethane (40 ml). The reaction mixture was allowed to warm to ambient temperature and stirred for 19 h. The reaction mixture was cooled to −78° C. and methanol (20 ml) added. The reaction mixture was allowed to warm back to ambient temperature, stirred for 24 h, and then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with water and dried with brine and over sodium sulphate. The crude product was purified by flash column chromatography, eluting with cyclohexane:ethyl acetate (1:1), to give the title compound as a white solid (2.24 g).

reactant | 3-chloro-N,N-diisopropyl-5-methoxy-benzamide | 2.96 g | ClC=1C=C(C(=O)N(C(C)C)C(C)C)C=C(C1)OC | C14H20ClNO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3-Chloro-5-hydroxy-N,N-diisopropyl-benzamide | 2.24 g | ClC=1C=C(C(=O)N(C(C)C)C(C)C)C=C(C1)O | C13H18ClNO2
